US07291632B2
Preparation 31. 1-Methyl-4-(N-(3-amino-5-fluorophenyl)methylamino)piperidine
Combine 1-methyl-4-(N-(3-bromo-5-fluorophenyl)methylamino)piperidine (Preparation 30, 2.90 g, 9.63 mmol), benzophenone imine (1.94 mL, 11.55 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.24 g, 0.39 mmol), sodium t-butoxide (1.26 g, 13.48 mmol), and toluene (60 mL), stir and heat to 80° C. After 10 minutes, add Pd2(dba)3 (0.17 g, 0.19 mmol). After 3 hr at 80° C., cool to ambient temperature. Dilute with ethyl acetate (100 mL)and wash with water (50 mL). Separate organic layer, dry over sodium sulfate, filter and concentrate. Dissolve this material in tetrahydrofuran (120 mL) and treat with 1M aqueous hydrochloric acid solution (40 mL). After stirring at ambient temperature for 1 hr, add 2M sodium hydroxide solution until basic (21 mL). Extract with ethyl acetate (2×100 mL). Wash organic layer with saturated aqueous NaCl solution (75 mL), dry over sodium sulfate, filter and concentrate to an oil. Purify residue by silica gel flash chromatography eluting with 10% (2M NH3 in methanol) in CH2Cl2 to obtain 1.96 g (86%) of the title compound.

reactant | 1-methyl-4-(N-(3-bromo-5-fluorophenyl)methylamino)piperidine | 9.63 mmol, 2.90 g | CN1CCC(CC1)NCC1=CC(=CC(=C1)F)Br | C13H18BrFN2
reactant | benzophenone imine | 11.55 mmol, 1.94 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium t-butoxide | 13.48 mmol, 1.26 g | CC(C)([O-])C.[Na+]
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.19 mmol, 0.17 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.39 mmol, 0.24 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 1-Methyl-4-(N-(3-amino-5-fluorophenyl)methylamino)piperidine | 1.96 g, 86% | CN1CCC(CC1)NCC1=CC(=CC(=C1)F)N | C13H20FN3
